US06066657
2-Methanesulfonyl-7-methoxybenzofuran-4-carboxylic Acid
Prepared from 4-bromo-2-methanesulfonyl-7-methoxybenzofuran (1.64 g), triphenylphosphine (0.49 g), bis(triphenylphosphine)palladium (II) chloride (0.25 g) and triethylamine (7.2 ml) in tetrahydrofuran/water (68 ml/35 ml). The title compound was obtained as a white solid (1.23 g).

reactant | 4-bromo-2-methanesulfonyl-7-methoxybenzofuran | 1.64 g | BrC1=CC=C(C2=C1C=C(O2)S(=O)(=O)C)OC | C10H9BrO4S
reactant | triphenylphosphine | 0.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran water | 68 ml | O1CCCC1.O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.25 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-Methanesulfonyl-7-methoxybenzofuran-4-carboxylic Acid | CS(=O)(=O)C=1OC=2C(C1)=C(C=CC2OC)C(=O)O | C11H10O6S
